US04924624
Caprylolactam (Fluka, N.Y., #21631) (25 g, 117 mmoles), is combined with lithium aluminum hydride (10.5 g) in ether and reduced with stirring for 5 hr. The reaction mixture is filtered and evaporated with ether. The product is octahydroazonin (90% yield).

reactant | Caprylolactam | 117 mmoles, 25 g | C1(CCCCCCCN1)=O | C8H15NO
reactant | lithium aluminum hydride | 10.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | octahydroazonin | 90% yield | N1CCCCCCCC1 | C8H17N
